US05656629
Sodium (0.24 g) was dissolved in ethanol (25 mL) and 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (1.09 g, 4.91 mmol) followed by ethyl 1,2,3,4-tetrahydro-2-isoquinolinyl acetate (2.15 g) were added. The reaction mixture was refluxed for about 2 days, the solvent was stripped and the residue was treated with water and acetic acid. A gum formed which was extracted with CHCl3 (3×100 mL) and the organic layers were combined, dried over MgSO4, filtered and stripped to afford a yellow solid which was washed with ether to afford (0.6 g) of crude product. The crude product was combined with the crude product from a similar experimental run and the mixture was purified by column chromatography on silica gel eluting with ethyl acetate/hexane (1/1). Additional product was also obtained from concentration of the above ether filtrate and purification by column chromatography as described above. The product fractions were pooled and recrystallized from ether to afford 1-cyclopentyl-3-ethyl-6-(1,2,3,4-tetrahydro-2-isoquinolinylmethyl)pyrazolo[3,4-d]pyrimidin-4-one, as a white solid, m.p. 149°-151° C.

reactant | Sodium | 0.24 g | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 4.91 mmol, 1.09 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethanol | 25 mL | C(C)O | C2H6O
product | 1-cyclopentyl-3-ethyl-6-(1,2,3,4-tetrahydro-2-isoquinolinylmethyl)pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CN2CC1=CC=CC=C1CC2)CC | C22H27N5O
